US04806557
2-[2-(-(S)-4-Benzyloxycarbonylamino-4-methoxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
A mixture of 2-[2-aminoethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (1.61 g), ("amlodipine"), (S)-4-benzyloxycarbonylamino-4-methoxycarbonylbutanoic acid (1.28 g) [see G. H. L. Nefkens and J. F. Nivard, Rec. Trav. Chim. Pays Bas, 199, 83, 1964], 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.83 g), 1-hydroxybenzotriazole (0.59 g) and triethylamine (0.44 g) in dichloromethane (25 ml) were reacted together as described in Example 5 part (a) to give the title compound (2.0 g) as an essentially pure solid foam which was used directly in Example 1 and Preparation 2 without further purification.

reactant | 2-[2-aminoethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 1.61 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | (S)-4-benzyloxycarbonylamino-4-methoxycarbonylbutanoic acid | 1.28 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)O)C(=O)OC | C14H17NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.83 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.59 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.44 g | C(C)N(CC)CC | C6H15N
product | 2-[2-(-(S)-4-Benzyloxycarbonylamino-4-methoxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C)C(=O)OC | C34H40ClN3O10
